US05605906
Step 1: N-methyl-3-methoxyanilinochlorophenylborane
N-methyl-3-methoxyanilinochlorophenylborane was prepared by adding dichlorophenylborane (100 mmol) to a solution of N-methy-3-methoxyaniline (100 mmol) in 1,2-dichloroethane (100 mL) at 0° C. The resulting mixture was refluxed for 2 h under a rapid stream of nitrogen to remove the HCl formed. The mixture was cooled to give a 0.8 M cloudy solution of the title compound which could be stored at 0°C. for more than 6 weeks without deterioration.

reactant | dichlorophenylborane | 100 mmol | ClB(C1=CC=CC=C1)Cl | C6H5BCl2
reactant | N-methy-3-methoxyaniline | 100 mmol | CNC1=CC(=CC=C1)OC | C8H11NO
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | N-methyl-3-methoxyanilinochlorophenylborane | CN(C1=CC(=CC=C1)OC)B(C1=CC=CC=C1)Cl | C14H15BClNO
